US06166034
Methyl 6-[2-methyl-4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl]nicotinate
Methyl 6-(trimethylstannyl)nicotinate (D11, 0.300 g, 1.00 mmol) was dissolved in dry toluene (15 ml) and was treated with 2-(4-bromo-3-methylphenyl)-5-methyl-1,3,4-oxadiazole (EP 0533268A1) (0.211 g, 0.834 mmol). The mixture was flushed with argon and bis(triphenyl phosphine)pallalladium (II) chloride (0.029 g, 0.042 mmol) was added. The mixture was then heated to reflux under argon. After 2 h, further methyl 6-(trimethylstannyl)nicotinate (0.030 g, 0.100 mmol) in toluene (2 ml) and bis(triphenylphosphine) palladium (II) chloride (0.010 g, 0.014 mmol) was added. Reflux was continued for a further 2 h before the reaction mixture was allowed to cool. The reaction mixture was then filtered through kieselguhr. The kieselguhr was washed with toluene (2×20 ml) and the filtrate was evaporated under reduced pressure to give a yellow/brown solid which was dried in vacuo (0.450 g). The solid was then purified by silica-gel chromatography (1:1 Petrol 60-80: EtOAc as eluant) to give the title compound as a cream coloured solid (0.140 g, 54%).

reactant | Methyl 6-(trimethylstannyl)nicotinate | 1.00 mmol, 0.300 g | C[Sn](C1=NC=C(C(=O)OC)C=C1)(C)C
reactant | 2-(4-bromo-3-methylphenyl)-5-methyl-1,3,4-oxadiazole | 0.834 mmol, 0.211 g | BrC1=C(C=C(C=C1)C=1OC(=NN1)C)C | C10H9BrN2O
reactant | methyl 6-(trimethylstannyl)nicotinate | 0.100 mmol, 0.030 g | C[Sn](C1=NC=C(C(=O)OC)C=C1)(C)C
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.014 mmol, 0.010 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl 6-[2-methyl-4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl]nicotinate | 0.140 g, 54% | CC1=C(C=CC(=C1)C=1OC(=NN1)C)C1=NC=C(C(=O)OC)C=C1 | C17H15N3O3
